US06387908B1
1-(S)-[α-(R)-methoxybenzyl]-3-methylbutylamine (Starting compound of Example 5)
The N-[1-(S)-[α-(R)-methoxybenzyl]-3-methylbutyl]phthalimide (25.6 g, 75.9 mmol.) obtained above was suspended in ethanol (250 mL). To the suspension was added hydrazine hydrate (7.5 mL), and the resulting mixture was heated under reflux for 15 hours. The reaction mixture was chilled in an ice bath, and stirred at 5° C. for one hour after addition of 4N hydrochloric acid (200 mL). The insoluble material was removed by filtration and washed with 4N hydrochloric acid. The filtrate and washings were combined, and placed under reduced pressure to distill off ethanol. The residue was made basic to reach pH approx. 11, by addition of 10N aqueous sodium hydroxide solution, and extracted with chloroform. The extract was washed with aqueous saturated sodium chloride solution and dried over anhydrous sodium sulfate. The dried extract was placed under reduced pressure to give the titled compound as pale yellow oil (15.5 g, purity: 91%, yield: 81%).

reactant | N-[1-(S)-[α-(R)-methoxybenzyl]-3-methylbutyl]phthalimide | 75.9 mmol, 25.6 g | CO[C@H](C1=CC=CC=C1)[C@H](CC(C)C)N1C(C=2C(C1=O)=CC=CC2)=O | C21H23NO3
reactant | hydrazine hydrate | 7.5 mL | O.NN
reactant | hydrochloric acid | 4N, 200 mL | Cl | ClH
solvent | ethanol | 250 mL | C(C)O | C2H6O
product | 1-(S)-[α-(R)-methoxybenzyl]-3-methylbutylamine | 15.5 g, yield: 81% | CO[C@H](C1=CC=CC=C1)[C@H](CC(C)C)N | C13H21NO
